US08703742B2
2-(2-Bromo-3-ethoxyphenyl)-1,3-dioxolane
To a solution of 2-bromo-3-ethoxybenzaldehyde (128 g, 0.56 mol) and glycol (253 mL, 4.49 mol) in toluene (600 mL) was added p-toluenesulfonic acid (10 g, 0.06 mol). The reaction flask had a Dean and Stark condenser attached and the reaction mixture was refluxed to remove the water for 4 h. The reaction mixture was then cooled to room temperature and concentrated in vacuo. The residue was purified by column chromatography on silica gel to give the target compound (132 g, yield 86%).

reactant | 2-bromo-3-ethoxybenzaldehyde | 0.56 mol, 128 g | BrC1=C(C=O)C=CC=C1OCC | C9H9BrO2
reactant | p-toluenesulfonic acid | 0.06 mol, 10 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Bromo-3-ethoxyphenyl)-1,3-dioxolane | 132 g, yield 86% | BrC1=C(C=CC=C1OCC)C1OCCO1 | C11H13BrO3
